US07288657B2
N-Benzyl-N-methylaminoacetaldehyde
To a 3-necked 2-L flask was added N-benzyl-N-methylethanolamine (30.5 g, 0.182 mol), DCM (0.5 L), DIPEA (95 mL, 0.546 mol) and DMSO (41 mL, 0.728 mol). Using an ice bath, the mixture was cooled to about −10° C. and sulfur trioxide pyridine-complex (87 g, 0.546 mol) was added in 4 portions over 5 minute intervals. The reaction was stirred at −10° C. for 2 hours. Before removing the ice-bath, the reaction was quenched by adding water (0.5 L). The aqueous layer was separated and the organic layer was washed with water (0.5 L) and brine (0.5 L) and then dried over magnesium sulfate and filtered to provide the title compound which was used without further purification.

reactant | N-benzyl-N-methylethanolamine | 0.182 mol, 30.5 g | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
reactant | DIPEA | 0.546 mol, 95 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 0.728 mol, 41 mL | CS(=O)C | C2H6OS
reactant | sulfur trioxide pyridine | 0.546 mol, 87 g | N1=CC=CC=C1.S(=O)(=O)=O
solvent | DCM | 0.5 L | C(Cl)Cl | CH2Cl2
product | N-Benzyl-N-methylaminoacetaldehyde | C(C1=CC=CC=C1)N(C)CC=O | C10H13NO
